US08466186B2
(b) 4-Chloro-2-amino-5-(4-trifluoromethyl-piperidin-1-yl)aniline
A mixture of 4-chloro-2-nitro-5-(4-trifluoromethyl-piperidin-1-yl)aniline (0.63 g, 1.9 mmol), THF (10 mL), MeOH (20 mL) and 50%-Pt-on-carbon (60 mg) was stirred for 22 h at rt under a hydrogen atmosphere (3 bar). The catalyst was removed by filtration and the mixture was concentrated to give the sub-title compound.

reactant | 4-chloro-2-nitro-5-(4-trifluoromethyl-piperidin-1-yl)aniline | 1.9 mmol, 0.63 g | ClC1=CC(=C(N)C=C1N1CCC(CC1)C(F)(F)F)[N+](=O)[O-] | C12H13ClF3N3O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 20 mL | CO | CH4O
product | 4-Chloro-2-amino-5-(4-trifluoromethyl-piperidin-1-yl)aniline | ClC1=CC(=C(N)C=C1N1CCC(CC1)C(F)(F)F)N | C12H15ClF3N3
